US08314147B2
Intermediate 36: Ethyl (4-{[(6-chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetate
3-Chlorobenzylbromide (28 μl, 0.24 mmol) was added to a suspension of ethyl (4-{[(6-chloro-2-fluoro-3-hydroxyphenyl)carbonyl]amino}phenyl)acetate (80 mg, 0.228 mmol) and potassium carbonate (38 mg, 0.273 mmol) in dimethylformamide (3 ml) and the reaction was stirred at room temperature for 4 hrs. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The organic layer was separated, dried (Na2SO4) and the solvent evaporated to afford the title compound as a colourless oil (91 mg, 84%).

reactant | 3-Chlorobenzylbromide | 0.24 mmol, 28 μl | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | ethyl (4-{[(6-chloro-2-fluoro-3-hydroxyphenyl)carbonyl]amino}phenyl)acetate | 0.228 mmol, 80 mg | ClC1=CC=C(C(=C1C(=O)NC1=CC=C(C=C1)CC(=O)OCC)F)O | C17H15ClFNO4
reactant | potassium carbonate | 0.273 mmol, 38 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Ethyl (4-{[(6-chloro-3-{[(3-chlorophenyl)methyl]oxy}-2-fluorophenyl)carbonyl]amino}phenyl)acetate | 91 mg, 84% | ClC1=CC=C(C(=C1C(=O)NC1=CC=C(C=C1)CC(=O)OCC)F)OCC1=CC(=CC=C1)Cl | C24H20Cl2FNO4
